US05856520
A 300-ml four-neck flask equipped with a stirring device, a condenser and a thermometer was prepared. Then, 120 g of 1,2-ethylene dichloride and 76 g (0.32 mols) of 1,2-dibromobenzene were placed in the flask, and 56 g (0.42 mols) of 60% fuming sulfuric acid was added thereto dropwise in a gentle stream of nitrogen gas and allowed to react therewith at 70° C. for 2 hours. After the resulting reaction product solution was cooled, a reaction product was filtered out and then dried. Thus, 95 g of crude 3,4-dibromobenzenesulfonic acid was obtained.

reactant | 1,2-dibromobenzene | 0.32 mols, 76 g | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | sulfuric acid | 0.42 mols, 56 g | S(O)(O)(=O)=O | H2O4S
solvent | 1,2-ethylene dichloride | 120 g | C(CCl)Cl | C2H4Cl2
product | 3,4-dibromobenzenesulfonic acid | 95 g | BrC=1C=C(C=CC1Br)S(=O)(=O)O | C6H4Br2O3S
